US07399759B2
N-Benzyl-N′,N′-dimethyl-N-[[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]urea
A mixture of methyl thiosalicylate (1.8 g, 10.7 mmol), N-benzyl-N-[(6-cyano-2-pyridyl)carbonyl]-N′,N′-dimethylurea (1.6 g, 5.4 mmol), triethylamine (2.0 ml, 14 mmol) and toluene (4 ml) was refluxed for 8 hrs as described in Example 1. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-chlorobenzene to give the titled compound (2.2 g, 93%) as crystals.

reactant | methyl thiosalicylate | 10.7 mmol, 1.8 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | N-benzyl-N-[(6-cyano-2-pyridyl)carbonyl]-N′,N′-dimethylurea | 5.4 mmol, 1.6 g | C(C1=CC=CC=C1)N(C(=O)N(C)C)C(=O)C1=NC(=CC=C1)C#N | C17H16N4O2
reactant | triethylamine | 14 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | N-Benzyl-N′,N′-dimethyl-N-[[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]urea | 2.2 g, 93% | C(C1=CC=CC=C1)N(C(=O)N(C)C)C(=O)C1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C24H20N4O3S
